US07238808B2
5-[7-Difluoromethyl-5-(3-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-2,4-difluoro-benzenesulfonamide
The title compound was prepared from 7-difluoromethyl-3-ethynyl-5-(3-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine (example C.2) (169 mg, 0.5 mmol) and commercially available 5-bromo-2,4-difluoro-benzenesulfonamide (136 mg, 0.5 mmol) according to general procedure II. Obtained as a yellow solid (76 mg, 29%). MS (ISN) 527.0 [(M−H)−]; mp 277° C.

reactant | 7-difluoromethyl-3-ethynyl-5-(3-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine | 0.5 mmol, 169 mg | FC(C1=CC(=NC=2N1N=CC2C#C)C2=CC(=CC=C2)C(F)(F)F)F | C16H8F5N3
reactant | 5-bromo-2,4-difluoro-benzenesulfonamide | 0.5 mmol, 136 mg | BrC=1C(=CC(=C(C1)S(=O)(=O)N)F)F | C6H4BrF2NO2S
product | 5-[7-Difluoromethyl-5-(3-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-2,4-difluoro-benzenesulfonamide | FC(C1=CC(=NC=2N1N=CC2C#CC=2C(=CC(=C(C2)S(=O)(=O)N)F)F)C2=CC(=CC=C2)C(F)(F)F)F | C22H11F7N4O2S
